US05212191
Synthesis of (1RS)-1-[(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-2,2,2-trifluoroethanol
Trifluoroiodomethane (2.3 g) was cooled to -78° C. with a trap. DMF (7 ml), (2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-al (710 mg) and zinc (1.0 g) were added there to. And the mixture was treated with ultrasonic waves for 2 hrs. at room temperature. 1N hydrochloric acid was added to the reaction solution. The mixture was extracted with EtOAc. The extract was washed, dried, and evaporated. The residue was purified by column chromatography on silica gel (hexane-EtOAc) to give the title compound (217 mg) having the following physical data:

reactant | Trifluoroiodomethane | 2.3 g | FC(I)(F)F | CF3I
reactant | (2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-al | 710 mg | C(C1=CC=CC=C1)N(C(=O)CCC(=O)N1[C@@H](CCC1)C=O)C | C17H22N2O3
reactant | hydrochloric acid | 1N | Cl | ClH
catalyst | zinc | 1.0 g | [Zn] | Zn
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | (1RS)-1-[(2S)-1-[3-(N-benzyl-N-methylcarbamoyl)propanoyl]pyrrolidin-2-yl]-2,2,2-trifluoroethanol | 217 mg | C(C1=CC=CC=C1)N(C(=O)CCC(=O)N1[C@@H](CCC1)C(C(F)(F)F)O)C | C18H23F3N2O3
